### PR TITLE
[Merged by Bors] - feat(Analysis): `{LinearMap, Matrix}.trace` as a positive linear map

### PR DESCRIPTION
**Pull request by themathqueen**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 1]
```diff
@@ -251,6 +254,30 @@ theorem IsSymmetricProjection.le_iff_range_le_range {p q : E →ₗ[𝕜] E}
...
 
+open scoped ComplexOrder in
+theorem IsPositive.trace_nonneg {f : E →ₗ[𝕜] E} (hf : f.IsPositive) : 0 ≤ f.trace 𝕜 E := by
+  unfold trace
+  split_ifs with h
+  · have : FiniteDimensional 𝕜 E := Module.Finite.of_basis h.choose_spec.some
+    set b := stdOrthonormalBasis 𝕜 E
+    classical
+    simp_rw [traceAux_eq 𝕜 _ b.toBasis, traceAux, comp_apply, Matrix.traceLinearMap_apply]
+    exact Matrix.PosSemidef.trace_nonneg <| posSemidef_toMatrix_iff b |>.mpr hf
```
Comment (themathqueen) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]:
```suggestion
    classical
    simp_rw [traceAux_eq 𝕜 _ (stdOrthonormalBasis 𝕜 E).toBasis]
    exact posSemidef_toMatrix_iff (stdOrthonormalBasis 𝕜 E) |>.mpr hf |>.trace_nonneg
```

File: Mathlib/Analysis/InnerProductSpace/Positive.lean [hunk 2]
```diff
@@ -251,6 +254,29 @@ theorem IsSymmetricProjection.le_iff_range_le_range {p q : E →ₗ[𝕜] E}
   simpa [Submodule.toLinearMap_starProjection_eq_isComplProjection] using
     U.mem_iff_norm_starProjection _ |>.mpr <| le_antisymm (U.norm_starProjection_apply_le a) h2
 
+open scoped ComplexOrder in
```
Comment (j-loreaux) [inline Mathlib/Analysis/InnerProductSpace/Positive.lean]: Maybe just open this scope at the top of the file instead of doing it everywhere? We're in the `Positive` file, so I think it makes sense.

**Review by j-loreaux — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/InnerProductSpace/Positive.lean (hunk 2 above)
Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: I remember doing that once and @ocfnash suggested against it (or rather, suggested that I first bring it up on Zulip, and then I forgot).

Comment (ocfnash) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: I don't remember the occasion but I guess I was thinking something like: "it sufficiently surprising for most people to see a partial order on the complex numbers that it's beneficial to have the scope opened very nearby".

If that was my reason then I still think it's an OK point but not especially strong, and if you're having to open several times in the same file then I have no objection if you prefer just open once at the start of a section / top of the file.

Comment (themathqueen) [reply Mathlib/Analysis/InnerProductSpace/Positive.lean]: Yeah, I think that was almost exactly what you said haha. But yeah, fair enough. I think this file is special in that regard, so fair.
